US08703980B2
Darunavir Ethanolate (10 g) was dissolved in ethyl acetate (50 mL). The solution was heated to 40-45° C. and maintained for 30 min. Ethyl acetate was distilled off under vacuum completely to get residue in the form of semisolid. n-Heptane (50 mL) was added to the residue and stirred for 30 min. at ambient temperature. The separated solid was filtered, washed the wet cake with n-heptane (5 mL) and dried at 40-45° C. under vacuum to get 8.0 g of amorphous Darunavir.

reactant | Darunavir Ethanolate | 10 g | CCO.CC(C)CN(C[C@H]([C@H](CC=1C=CC=CC1)NC(=O)O[C@H]2CO[C@@H]3[C@H]2CCO3)O)S(=O)(=O)C=4C=CC(=CC4)N
reactant | n-Heptane | 50 mL | CCCCCCC | C7H16
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Darunavir | 8.0 g | CC(C)CN(C[C@H]([C@H](CC=1C=CC=CC1)NC(=O)O[C@H]2CO[C@@H]3[C@H]2CCO3)O)S(=O)(=O)C=4C=CC(=CC4)N | C27H37N3O7S
